### ISSUE TITLE
conv’s arg fails with subsingleton parameters 

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#4394]
Consider
```
opaque foo (p : Prop) [Decidable p] : Prop

/--
error: tactic 'rfl' failed, equality expected
  Decidable ?m.58
p : Prop
inst✝ : Decidable p
⊢ Decidable ?m.58
-/
#guard_msgs in
example  [Decidable p] : foo p := by
  conv => arg 1
  sorry
```

The problem seems to be this code:

```lean
private def selectIdx (tacticName : String) (mvarIds : List (Option MVarId)) (i : Int) :
  TacticM Unit := do
  if i >= 0 then
    let i := i.toNat
    if h : i < mvarIds.length then
      for mvarId? in mvarIds, j in [:mvarIds.length] do
        match mvarId? with
        | none => pure ()
        | some mvarId =>
          if i != j then
            mvarId.refl
      match mvarIds[i] with
      | none => throwError "cannot select argument"
      | some mvarId => replaceMainGoal [mvarId]
      return ()
  throwError "invalid '{tacticName}' conv tactic, application has only {mvarIds.length} (nondependent) argument(s)"
```

This assumes that all goals in `mvarIds`, which is the result of 
```
def congr (mvarId : MVarId) (addImplicitArgs := false) (nameSubgoals := true) :
    MetaM (List (Option MVarId))
```
are equality goals, but due to
```
      | .subsingletonInst =>
        proof := mkApp proof arg
        let rhs ← mkFreshExprMVar (← whnf (← inferType proof)).bindingDomain!
        proof := mkApp proof rhs
        mvarIdsNewInsts := mvarIdsNewInsts.push (some rhs.mvarId!)
```
there this can also contain subsingleton goals.

Probably these should be solved, once the new `p` is known, using type class search?

### Versions

`4.10.0-nightly-2024-06-07`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I was curious so had a deeper look. 

This might be a fix:

```diff
diff --git a/src/Lean/Elab/Tactic/Conv/Congr.lean b/src/Lean/Elab/Tactic/Conv/Congr.lean
index 9060bd91d6..de4dee1bc5 100644
--- a/src/Lean/Elab/Tactic/Conv/Congr.lean
+++ b/src/Lean/Elab/Tactic/Conv/Congr.lean
@@ -75,20 +75,28 @@ def congr (mvarId : MVarId) (addImplicitArgs := false) (nameSubgoals := true) :
 @[builtin_tactic Lean.Parser.Tactic.Conv.congr] def evalCongr : Tactic := fun _ => do
   replaceMainGoal <| List.filterMap id (← congr (← getMainGoal))

+-- mvarIds is the list of goals produced by congr. We only want to change the one at position `i`
+-- so this closes all other equality goals with `rfl.`. There are non-equality goals produced
+-- by `congr` (e.g. dependent instances), thes are kept as goals.
 private def selectIdx (tacticName : String) (mvarIds : List (Option MVarId)) (i : Int) :
   TacticM Unit := do
   if i >= 0 then
     let i := i.toNat
     if h : i < mvarIds.length then
+      let mut otherGoals := #[]
       for mvarId? in mvarIds, j in [:mvarIds.length] do
         match mvarId? with
         | none => pure ()
         | some mvarId =>
           if i != j then
-            mvarId.refl
+            if (← mvarId.getType').isEq then
+              mvarId.refl
+            else
+              -- If its not an equality, it's likely a class constraint, to be left open
+              otherGoals := otherGoals.push mvarId
       match mvarIds[i] with
       | none => throwError "cannot select argument"
-      | some mvarId => replaceMainGoal [mvarId]
+      | some mvarId => replaceMainGoal (mvarId :: otherGoals.toList)
       return ()
   throwError "invalid '{tacticName}' conv tactic, application has only {mvarIds.length} (nondependent) argument(s)"
```

But while testing it I found this:
```
class Foo (n : Nat) where
opaque P (n : Nat) [Foo n] : Prop
/-- error: cannot select argument -/
#guard_msgs in
example (n : Nat) [Foo n] : P n := by conv => arg 1
```

Why does this behave differently than the `Prop` variant above? Digging deeper I find that `conv` behaves differently depending on whether the class is type or prop valued, and whether the index of the class is prop or a nat:

```lean
import Lean
open Lean Elab Meta Tactic
opaque foo (p : Prop) [Decidable p] : Prop
class PropClass (n : Nat) : Prop where
opaque P1 (n : Nat) [PropClass n] : Prop
class TypeClass (n : Nat) : Type where
opaque P2 (n : Nat) [TypeClass n] : Prop

/--
info: thm for foo: ∀ (p p_1 : Prop), p = p_1 → ∀ {inst : Decidable p} {inst_1 : Decidable p_1}, foo p = foo p_1
kinds: #[Lean.Meta.CongrArgKind.eq, Lean.Meta.CongrArgKind.subsingletonInst]
---
info: thm for P1: ∀ (n n_1 : Nat) (e_n : n = n_1) [inst : PropClass n], P1 n = P1 n_1
kinds: #[Lean.Meta.CongrArgKind.eq, Lean.Meta.CongrArgKind.cast]
---
info: thm for P2: ∀ (n : Nat) [inst : TypeClass n], P2 n = P2 n
kinds: #[Lean.Meta.CongrArgKind.fixed, Lean.Meta.CongrArgKind.fixed]
-/
#guard_msgs in
run_meta
  #[``foo, ``P1, ``P2].forM fun n => do
    let e ← mkConstWithLevelParams n
    let some thm ← mkCongrSimp? e (subsingletonInstImplicitRhs := false) | throwError "no thm"
    let kinds ← getCongrSimpKinds e (← getFunInfo e)
    logInfo m!"thm for {e}: {thm.type}\nkinds: {repr kinds}"
```

So this does not work:
```lean
/-- error: cannot select argument -/
#guard_msgs in
example [TypeClass n] [TypeClass (id n)] (h : P2 n) : P2 (id n) := by
  conv => arg 1
```

And this worked before
```lean

example [PropClass n] [PropClass (id n)] (h : P1 n) : P1 (id n) := by
  conv => arg 1; rw [id]
  exact h
```

And my fix seems only to matter for `.subsingletonInst`, as now we can do
```lean
example [Decidable p] [Decidable (id p)] (h : foo p) : foo (id p) := by
  conv => arg 1; rw [id]
  exact h
```

So this looks plausible, although I certainly don’t understand the `conv` machinery here well enough to say that with confidence.

**Comment by nomeata** [comment]
One effect of this fix is that `arg 1` can produce multiple goals. It looks like `conv` solves them when they are left over, but they do show up to the user:

```lean
/--
error: tactic 'fail' failed
p : Prop
inst✝ : Decidable p
⊢ Decidable (id p)
---
error: unsolved goals
p : Prop
inst✝ : Decidable p
⊢ foo (id p)
-/
#guard_msgs in
example [Decidable p] : foo p := by
  conv =>
    arg 1
    · rw [← id.eq_def p]
    · tactic => fail
```

Not sure if that’s intended.
